US05091384
Preparation of N-(p-toluenesulfonyl)-3-(bromomethyl)-4-(cyanomethyl)-3-pyrroline
10 g of N-(p-toluenesulfonyl)-3,4-bis(bromomethyl)-3-pyrroline, prepared in Preparation 5, was dissolved in 10 ml of dimethylsulfoxide (DMSO) and then heated in oil bath for 2 hours with refluxing. During the heating and refluxing, 1.5 g of sodium cyanide was added by small portion. The reaction mixture was cooled to room temperature and poured into ice water and then extracted with methylene chloride (200 ml×3). The extracts were combined, dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography. 5 g of the title compound was obtained (yield 57%).

reactant | N-(p-toluenesulfonyl)-3,4-bis(bromomethyl)-3-pyrroline | 10 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC(=C(C1)CBr)CBr)C | C13H15Br2NO2S
reactant | sodium cyanide | 1.5 g | [C-]#N.[Na+]
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | N-(p-toluenesulfonyl)-3-(bromomethyl)-4-(cyanomethyl)-3-pyrroline | 5 g, yield 57% | C1(=CC=C(C=C1)S(=O)(=O)N1CC(=C(C1)CC#N)CBr)C | C14H15BrN2O2S
